US05369110
A solution of 3.6 g (13.5 mmol) of N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine and 1.75 g (13.5 mmol) of 2,2-dimethylsuccinic acid anhydride in 50 ml of dioxane is heated under reflux for 5 hours. Concentration of the reaction mixture by evaporation yields crude 3-carboxy-3-methyl-butanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide that melts at from 125° to 131° and is further used in crude form.

reactant | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine | 13.5 mmol, 3.6 g | C(CCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C18H20N2
reactant | 2,2-dimethylsuccinic acid anhydride | 13.5 mmol, 1.75 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-carboxy-3-methyl-butanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide | C(CCC)N(C(CC(C)(C)C(=O)O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H28N2O3
